US07435837B2
(±)-[(5-fluoro-7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl)methyl]methylamine
The title compound was prepared (0.056 g, 34%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[5-fluoro-7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.20 g, 0.50 mmol) and methylamine (0.155 g, 5.0 mmol). mp 255-257° C.

reactant | (±)-[5-fluoro-7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.50 mmol, 0.20 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C=2C=NC=CC2)F | C21H18FNO4S
reactant | methylamine | 5.0 mmol, 0.155 g | CN | CH5N
product | (±)-[(5-fluoro-7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl)methyl]methylamine | FC=1C=C(C2=C(CC(O2)CNC)C1)C=1C=NC=CC1 | C15H15FN2O
